US07109219B2
N1-(3-Methylbutyl)-5-((2-amino-4-pyridyl)oxy)-1H-1-indolecarboxamide
4-(1H-5-Indolyloxy)-2-pyridinamine (2.0 g, 8.9 mmol, CAS No. 417722-11-3) which was described in WO 02/32872 was dissolved in N,N-dimethylformamide (20 ml); and sodium hydride (426 mg, 10.7 mmol) was added thereto at room temperature while stirring. The reaction mixture was cooled with ice bath after 30 minutes; phenyl N-(3-methylbutyl)carbamate (2.02 g, 9.75 mmol) was added thereto; and the reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated; and the residue was purified by NH-silica gel column chromatography (hexane:ethyl acetate=3:1) to yield the title compound as crystals (1.45 g, 4.3 mmol, 48%).

reactant | 4-(1H-5-Indolyloxy)-2-pyridinamine | 8.9 mmol, 2.0 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C13H11N3O
reactant | sodium hydride | 10.7 mmol, 426 mg | [H-].[Na+]
reactant | phenyl N-(3-methylbutyl)carbamate | 9.75 mmol, 2.02 g | CC(CCNC(OC1=CC=CC=C1)=O)C | C12H17NO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N1-(3-Methylbutyl)-5-((2-amino-4-pyridyl)oxy)-1H-1-indolecarboxamide | 4.3 mmol, 1.45 g, 48% | CC(CCNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N)C | C19H22N4O2
